US04246263
Under a nitrogen atmosphere, sodium methoxide (1.62 g., 0.03 mole) was dissolved in 36 ml. of stirring absolute ethanol and the solution cooled in an ice bath. 2-Mercaptoethanol (2.34 g., 0.03 mole) in 6 ml. of absolute ethanol was added over approximately 5 minutes. Finally, 4-vinylpyridine (3.22 g., 0.03 mole) in approximately 20 ml. of absolute ethanol was added over 15 minutes. The reaction mixture was allowed to warm to room temperature and stirred for 23 hours. The reaction mixture was concentrated to a thick oil (7.28 g.). The oil was diluted with a small amount of chloroform (a strong exotherm occurred, leading to refluxing of the chloroform) and chromatographed on silica gel, with large volumes of chloroform and finally chloroform/1% methanol as eluant. Product containing fractions (from the latter eluant) were combined and evaporated to yield the free base of 4-[2-(2-hydroxyethylthio)ethyl]pyridine [2.49 g.; oil; m/e calcd.: 183, found: 183; ir (film): 3.10, 3.45, 3.52, 6.23, 7.07, 9.40, 9.57, 9.98 and 12.44μ; pnmr/CDCl3 /TMS/δ: 8.53 (m, 2H), 7.17 (m, 2H), 3.77 (t, 2H), 3.57 (s, 1H, exchanges with D2O), 2.85 (m, 4H) and 2.73 ppm (t, 2H)].

reactant | sodium methoxide | 0.03 mole, 1.62 g | C[O-].[Na+]
reactant | 2-Mercaptoethanol | 0.03 mole, 2.34 g | SCCO | C2H6OS
reactant | 4-vinylpyridine | 0.03 mole, 3.22 g | C(=C)C1=CC=NC=C1 | C7H7N
solvent | ethanol | C(C)O | C2H6O
product | 4-[2-(2-hydroxyethylthio)ethyl]pyridine | OCCSCCC1=CC=NC=C1 | C9H13NOS
